US04547510
E-8-(2-Acetoxybenzylidene)-5,6,7,8-tetrahydro-3-methylquinoline
A mixture of 5,6,7,8-tetrahydro-3-methylquinoline (20 ml), salicylaldehyde (20 ml) and acetic anhydride (40 ml) was heated at 100° for 48 hours. Further acetic anhydride (50 ml) and ZnCl2 (1 g) was added and the mixture was heated at reflux for 16 hours. The solvent was removed by evaporation and the residue was dissolved in ethyl acetate, neutralised with Na2CO3 solution and extracted with ethyl acetate. The extracts were extracted with 2N HCl and the extract washed with ethyl acetate basified (Na2CO3) and extracted with diethyl ether. The solution was dried (MgSO4) and evaporated to give an oil which was triturated with n-hexane and recrystallised from n-hexane to give the title compound (12 g) m.p. 85°-7° C.

reactant | 5,6,7,8-tetrahydro-3-methylquinoline | 20 ml | CC=1C=NC=2CCCCC2C1 | C10H13N
reactant | salicylaldehyde | 20 ml | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | ZnCl2 | 1 g | [Cl-].[Cl-].[Zn+2]
product | E-8-(2-Acetoxybenzylidene)-5,6,7,8-tetrahydro-3-methylquinoline | 12 g | C(C)(=O)OC1=C(\C=C\2/CCCC=3C=C(C=NC23)C)C=CC=C1 | C19H19NO2
